US04145432
A mixture of diethyl 2-methyl-4-(2-chlorophenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (379.8 mg) and triphenylphosphine (314.7 mg) in carbon tetrachloride (5 ml) was refluxed for 3.5 hours. After the solvent was removed, the residue was dried under reduced pressure to give diethyl 2-methyl-4-(2-chlorophenyl)-6-chloromethyl-1,4-dihydropyridine-3,5-dicarboxylate. To this residue in 99% ethanol (10 ml) was added N-methylpiperazine (200 mg) and the solution was stirred at room temperature for 50 hours. Ethanol was removed from the reaction mixture and to the residue was added water. The mixture was extracted with ethyl acetate. After washing the extract with water, the extract was back-extracted with dilute hydrochloric acid. The aqueous layer was washed with diethyl ether, basified with an aqueous solution of sodium bicarbonate, and then extracted with ethyl acetate. The extract was washed with water, dried and then concentrated to give crude crystals (115.2 mg) of diethyl 2-methyl-4-(2-chlorophenyl)-6-(N-methylpiperazin-1-yl-methyl-1,4-dihydropyridine-3,5-dicarboxylate. The crude crystals were recrystallized from a mixture of ethanol and diethyl ether to give colorless needles, m.p. 179° to 180° C.

reactant | diethyl 2-methyl-4-(2-chlorophenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 379.8 mg | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OCC)CO | C19H22ClNO5
reactant | triphenylphosphine | 314.7 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | diethyl 2-methyl-4-(2-chlorophenyl)-6-chloromethyl-1,4-dihydropyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OCC)CCl | C19H21Cl2NO4
